US06939871B2
8-Bromo-6-fluoro-5-methoxy-2-methylquinoline (D45)
To 6-bromo-4-fluoro-3-methoxyaniline (7.0 g, 32 mmol) was added conc. HCl (10 ml) followed by p-chloranil (7.80 g, 32 mmol), then nbutanol (10 ml) was added and the whole mix heated up to reflux, with stirring. A solution of crotonaldehyde (2.7 g 38.4 mmol) in nbutanol (5 ml), was added slowly over 0.5 h, and reflux continued for a further 0.5 h. The reaction mixture was allowed to cool, and the basified to pH14 using 50% NaOH solution. The reaction mixture was diluted with water (200 ml) and extracted with dichloromethane (3×100 ml). The combined organic extracts were dried over Na2SO4 and evaporated in vacuo to give a dark oil which was chromatographed on silica gel (˜200 g) eluting from 20% ethyl acetate in hexane to give the title compound as a brown oil (2.97 g, 34%).

reactant | 6-bromo-4-fluoro-3-methoxyaniline | 32 mmol, 7.0 g | BrC1=CC(=C(C=C1N)OC)F | C7H7BrFNO
reactant | HCl | 10 ml | Cl | ClH
reactant | p-chloranil | 32 mmol, 7.80 g | C1(=C(C(=O)C(=C(C1=O)Cl)Cl)Cl)Cl | C6Cl4O2
reactant | crotonaldehyde | 38.4 mmol, 2.7 g | C(\C=C\C)=O | C4H6O
reactant | NaOH | [OH-].[Na+]
solvent | water | 200 ml | O | H2O
product | 8-Bromo-6-fluoro-5-methoxy-2-methylquinoline | 2.97 g, 34% | BrC=1C=C(C(=C2C=CC(=NC12)C)OC)F | C11H9BrFNO
